US04319913
The procedure of Example 26 was employed utilizing N-benzylaniline and 4-methylphenyl phosphonic dichloride to yield 1-(4-methylphenyl)-2-phenyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide (0.65 g, 7% yield) as a white solid having a melting point of 180°-181° C. and the following analysis:

reactant | N-benzylaniline | C(C1=CC=CC=C1)NC1=CC=CC=C1 | C13H13N
reactant | 4-methylphenyl phosphonic dichloride | CC1=CC=C(C=C1)P(=O)(Cl)Cl | C7H7Cl2OP
product | 1-(4-methylphenyl)-2-phenyl-2,3-dihydro-1H-2,1-benzazaphosphole-1-oxide | 0.65 g, 7% yield | CC1=CC=C(C=C1)P1(N(CC2=C1C=CC=C2)C2=CC=CC=C2)=O | C20H18NOP
